US08580762B2
2-nitro-4-(oxetan-3-yl)aniline
A suspension of N-(2-nitro-4-oxetan-3-ylphenyl)acetamide (125 mg, 0.529 mmo) in aqueous hydrazine (8 ml, 160 mmol) was heated at 70° C. for 2 h, the reaction mixture was cooled to 45° C. and the hydrazine was removed in vacuo to yield a solid. The crude material was purified by flash chromatography (SiO2, eluting with 20% EtOAc/CH2Cl2 to yield the desired product (71 mg).

reactant | N-(2-nitro-4-oxetan-3-ylphenyl)acetamide | 125 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C1COC1)NC(C)=O | C11H12N2O4
reactant | hydrazine | 160 mmol, 8 ml | NN | H4N2
product | 2-nitro-4-(oxetan-3-yl)aniline | 71 mg | [N+](=O)([O-])C1=C(N)C=CC(=C1)C1COC1 | C9H10N2O3
